US04942238
A mixture of 201.3 g of 1-(2-hydroxyethyl)-4-hydroxy-2,2,6,6-tetramethylpiperidine, 360.4 g of methyl methacrylate, 1.5 g of 2,6-di-tert-butyl-p-cresol and 0.4 g of N,N'-bis[β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyl]hexamethylenediamine are heated, under nitrogen, at 110° C. until 20 ml of methyl methacrylate have distilled through a Vigreux column (40 cm effective length, with double jacket, metal-coated and evacuated). After cooling to 85° C., 2.4 ml of tetrabutyl titanate are added and the mixture is heated such that methanol distills very slowly (bath temperature 110° C., still temperature 60° C.). After 2 hours, 80.1 g of methyl methacrylate are added and the reaction is allowed to continue for a further 14 hours. Then 1.2 ml of tetrabutyl titanate are added and the reaction is allowed to continue for a further 24 hours under the same conditions. Excess methyl methacrylate is removed by distillation. The residual crude product is purified by chromatography through a column of SiO2 (eluant: 9:1 mixture of ether/methanol (saturated with NH3)), to give pure 1-(2-methacryloyloxyethyl)-4-methacryloyloxy-2,2,6,6-tetramethylpiperidine in the form of a colourless oil; nD20 =1.485.

reactant | 1-(2-hydroxyethyl)-4-hydroxy-2,2,6,6-tetramethylpiperidine | 201.3 g | OCCN1C(CC(CC1(C)C)O)(C)C | C11H23NO2
reactant | 2,6-di-tert-butyl-p-cresol | 1.5 g | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | N,N'-bis[β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyl]hexamethylenediamine | 0.4 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NCCCCCCNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C40H64N2O4
solvent | methyl methacrylate | 20 ml | C(C(=C)C)(=O)OC | C5H8O2
solvent | methyl methacrylate | 360.4 g | C(C(=C)C)(=O)OC | C5H8O2
product | 1-(2-methacryloyloxyethyl)-4-methacryloyloxy-2,2,6,6-tetramethylpiperidine | C(C(=C)C)(=O)OCCN1C(CC(CC1(C)C)OC(C(=C)C)=O)(C)C | C19H31NO4
